US06716861B2
tert-butyl (3R)-6-cyclohexyl-3-(3-{[(ethylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate
Method the same as for Preparation 6 using tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate (preparation 18) (200 mg, 0.57 mmol) and ethanesulphonylchloride (54 μl, 0.57 mmol) as starting materials. The reaction was carried out at 0° C.

reactant | tert-butyl (3R)-3-[3-(aminomethyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoate | 0.57 mmol, 200 mg | NCC1=NOC(=N1)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C19H33N3O3
reactant | ethanesulphonylchloride | 0.57 mmol, 54 μl | C(C)S(=O)(=O)Cl | C2H5ClO2S
product | tert-butyl (3R)-6-cyclohexyl-3-(3-{[(ethylsulfonyl)amino]methyl}-1,2,4-oxadiazol-5-yl)hexanoate | C1(CCCCC1)CCC[C@H](CC(=O)OC(C)(C)C)C1=NC(=NO1)CNS(=O)(=O)CC | C21H37N3O5S
